US09428456B2
1-(5-Bromo-thiophen-3-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide K-5
The title compound is prepared according to the reaction 3.01c described above using 5-bromo-thiophene-3-carbaldehyde and piperidine-4-carboxylic acid tert-butylamide hydrochloride as in 3.01c: LC-MS A: tR=0.64 min; [M+H]+=360.95.

reactant | 5-bromo-thiophene-3-carbaldehyde | BrC1=CC(=CS1)C=O | C5H3BrOS
reactant | piperidine-4-carboxylic acid tert-butylamide hydrochloride | Cl.C(C)(C)(C)NC(=O)C1CCNCC1
product | 1-(5-Bromo-thiophen-3-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CSC(=C1)Br | C15H23BrN2OS
